US07842696B2
Sulphamic acid (253 mg, 2.6 mmol) in water (0.5 mL) was added at 0° C. to a mixture of phenyl-1H-pyrazole-4-carbaldehyde (0.5 g, 2.34 mmol) in acetone (3 mL). After 5 minutes sodium chlorite (315 mg, 3.5 mmol) was added and the resulting mixture was stirred at 0° C. for 30 minutes. Water was added and the solid obtained was isolated by filtration to afford 140 mg (85% yield) of 1-phenyl-1H-pyrazole-4-carboxylic acid.

reactant | Sulphamic acid | 2.6 mmol, 253 mg | S(N)(O)(=O)=O | H3NO3S
reactant | phenyl-1H-pyrazole-4-carbaldehyde | 2.34 mmol, 0.5 g | C1(=CC=CC=C1)N1N=CC(=C1)C=O | C10H8N2O
reactant | sodium chlorite | 3.5 mmol, 315 mg | Cl(=O)[O-].[Na+]
solvent | water | 0.5 mL | O | H2O
solvent | acetone | 3 mL | CC(=O)C | C3H6O
product | 1-phenyl-1H-pyrazole-4-carboxylic acid | 140 mg, 85% yield | C1(=CC=CC=C1)N1N=CC(=C1)C(=O)O | C10H8N2O2
